* eeschema netlist version 1.1 (spice format) creation date: wednesday 17 april 2013 12:47:21 pm ist
.include ua741.sub

v2  5 0 10v
v1  9 0 20v
* Plotting option vplot8_1
r6  0 7 r
r3  4 12 r
r2  3 8 r
r1  4 3 r
r7  11 10 r
V_u4 13 10 0
x2  4 5 12 ua741
x1  3 9 8 ua741
V_u3 12 2 0
V_u2 8 6 0
r5  7 2 r
r4  13 6 r
x3  13 7 11 ua741

.dc  v1 0e-00 10e-00 5e-03

* Control Statements 
.control
run
plot v(3) v(4) v(6) v(2) v(11) 
plot i(V_u4)
plot i(V_u3)
plot i(V_u2)
.endc
.end
